US09302996B2
In methanol (7 mL) and tetrahydrofuran (7 mL) was dissolved methyl 1-{[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclopropanecarboxylate (236 mg), 2N aqueous sodium hydroxide solution (1.98 mL) was added to the solution and the resulting mixture was stirred at 50° C. for 4 hours. The reaction mixture was concentrated under reduced pressure, and acetic acid and ethyl acetate were added to the residue. The organic layer was separated, washed with a saturated brine, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to obtain 1-{[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclopropanecarboxylic acid (221 mg).

reactant | methyl 1-{[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclopropanecarboxylate | 236 mg | ClC=1C=C(C=CC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C(=CC(=NC1)OCC1(CC1)C(=O)OC)C | C28H33ClF3N3O4Si
reactant | sodium hydroxide | 2N, 1.98 mL | [OH-].[Na+]
solvent | methanol | 7 mL | CO | CH4O
solvent | tetrahydrofuran | 7 mL | O1CCCC1 | C4H8O
product | 1-{[(5-{3-chloro-4-[4-(trifluoromethyl)-1-{[2-(trimethylsilyl)ethoxy]methyl}-1H-imidazol-2-yl]phenyl}-4-methylpyridin-2-yl)oxy]methyl}cyclopropanecarboxylic acid | 221 mg | ClC=1C=C(C=CC1C=1N(C=C(N1)C(F)(F)F)COCC[Si](C)(C)C)C=1C(=CC(=NC1)OCC1(CC1)C(=O)O)C | C27H31ClF3N3O4Si
